US05393491
N,N-Diethly-N'-Dodecanoyl-1,3-Propylenediamine (Compound No. 6)
A 500 ml RB flask containing a solution of lauroyl chloride (19.03 g., 87 mM) in dry chloroform (200 ml) was cooled to 0° C. on an ice bath. A solution of N, N-diethly-1,3-propanediamine (15.00 g., 115 mM) in dry chloroform (25 ml) was added dropwise to the cold solution then allowed to warm to room temperature and stirred for 2 hours. The chloroform was removed under reduced pressure and the residue redissolved in an ethanol/water mixture (1:1) and neutralized with sodium bicarbonate, followed by extraction with chloroform (4×50 ml). The combined extracts were dried (MgSO4), concentrated, and the residue distilled under reduced pressure (bp 176° C., 20μ) to give 21.47 g. (79%) of the subject compound as an amber oil.

reactant | lauroyl chloride | 87 mM, 19.03 g | C(CCCCCCCCCCC)(=O)Cl | C12H23ClO
reactant | N, N-diethly-1,3-propanediamine | 115 mM, 15.00 g | C(C)N(CCCN)CC | C7H18N2
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | N,N-Diethly-N'-Dodecanoyl-1,3-Propylenediamine | C(C)N(CCCNC(CCCCCCCCCCC)=O)CC | C19H40N2O
